US04125732
Methyl(p-chlorophenoxy){p-[2-(p-chlorophenoxy)propoxy]phenyl}acetate
As described in Example 71, 2.19 g of p-chlorophenol is reacted with 7.0 g of methyl bromo{p-[2-(p-chlorophenoxy)propoxy]phenyl}acetate to give 6.2 g of product as a gum.

reactant | p-chlorophenol | 2.19 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | methyl bromo{p-[2-(p-chlorophenoxy)propoxy]phenyl}acetate | 7.0 g | BrC(C(=O)OC)C1=CC=C(C=C1)OCC(C)OC1=CC=C(C=C1)Cl | C18H18BrClO4
product | Methyl(p-chlorophenoxy){p-[2-(p-chlorophenoxy)propoxy]phenyl}acetate | 6.2 g | COC(C(C1=CC=C(C=C1)OCC(C)OC1=CC=C(C=C1)Cl)OC1=CC=C(C=C1)Cl)=O | C24H22Cl2O5
